US08609644B2
To a solution of trans-2-(tert-butoxycarbonyl)aminocyclopentan-1-ol (Prepn. 47, 3.00 g) triphenyl phosphine (5.90 g) and 4-nitrobenzoic acid (2.50 g) in THF (90 mL) was added, at 0° C., diisopropyl azodicarboxylate (4.50 mL). After stirring for 4 h, the solvent was evaporated and the crude product was purified by flash chromatography (SiO2, CH2Cl2:acetone 99:1) to give cis-2-(tert-butoxycarbonyl)amino-1-(4-nitrobenzoyloxy)cyclopentane (3.70 g, 70%). 1H-NMR (300 MHz, DMSO-d6, ppm from TMS): δ 8.33 (2H, d), 8.23 (2H, d), 7.08 (1H, d), 5.25 (1H, m), 3.92 (1H, m), 1.40-2.10 (6H, m), 1.28 (9H, s).

reactant | trans-2-(tert-butoxycarbonyl)aminocyclopentan-1-ol | 3.00 g | C(C)(C)(C)OC(=O)N[C@H]1[C@@H](CCC1)O | C10H19NO3
reactant | triphenyl phosphine | 5.90 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-nitrobenzoic acid | 2.50 g | [N+](=O)([O-])C1=CC=C(C(=O)O)C=C1 | C7H5NO4
reactant | diisopropyl azodicarboxylate | 4.50 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 90 mL | C1CCOC1 | C4H8O
product | cis-2-(tert-butoxycarbonyl)amino-1-(4-nitrobenzoyloxy)cyclopentane | 3.70 g, 70% | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCC1)OC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C17H22N2O6
